US05994378
A mixture of 2-(4-tert-butylthiazol-2-yl)benzofuran-5-carbonyl chloride hydrochloride (140 mg), benzyl indole-3-carboxylate (73.3 mg), triethylamine (0.089 ml) and N,N-dimethylaminopyridine (4 mg) in dichloromethane (4 ml) was stirred under reflux for 7 hours. After being cooled to room temperature, the mixture was treated with N,N-dimethylpropylenediamine (0.018 ml) and diluted with dichloromethane. The dichloromethane solution was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The resulting residue was subjected to column chromatography on silica gel and eluted with a mixture of n-hexane and ethyl acetate. The fractions containing the objective compound were combined and concentrated under reduced pressure to give benzyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]carbonyl}indole-3-carboxylate (121 mg).

reactant | 2-(4-tert-butylthiazol-2-yl)benzofuran-5-carbonyl chloride hydrochloride | 140 mg | Cl.C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C(=O)Cl
reactant | benzyl indole-3-carboxylate | 73.3 mg | N1C=C(C2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C16H13NO2
reactant | triethylamine | 0.089 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylpropylenediamine | 0.018 ml | CN(CC(C)N)C | C5H14N2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | benzyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]carbonyl}indole-3-carboxylate | 121 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C(=O)N2C=C(C1=CC=CC=C21)C(=O)OCC2=CC=CC=C2 | C32H26N2O4S
